US04409214
To a solution of benzhydryl 7-amino-3-chloromethyl-3-cephem-4-carboxylate (8.0 g) in N,N-dimethylformamide (40 ml) were added molecular sieve (10 g) and benzaldehyde (2.1 g), followed by stirring at 40° C. for 40 minutes. Thereto were added sodium iodide (2.9 g) and triphenylphosphine (10.1 g), followed by stirring at 40° C. for an hour. The reaction mixture was added dropwise to a mixture of diisopropyl ether (200 ml) and ethyl acetate (100 ml), and the precipitated crystals were collected by filtration and then dried to obtain [4-benzhydryloxycarbonyl-7-benzylideneamino-3-cephem-3-yl]methyl-triphenyl-phosphonium iodide (16.9 g), mp 150°-158° C. (dec.).

reactant | benzhydryl 7-amino-3-chloromethyl-3-cephem-4-carboxylate | 8.0 g | NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C21H19ClN2O3S
reactant | benzaldehyde | 2.1 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium iodide | 2.9 g | [I-].[Na+]
reactant | triphenylphosphine | 10.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl ether | 200 ml | C(C)(C)OC(C)C | C6H14O
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | [4-benzhydryloxycarbonyl-7-benzylideneamino-3-cephem-3-yl]methyl-triphenyl-phosphonium iodide | 16.9 g | [I-].C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C(C2N=CC2=CC=CC=C2)=O)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C46H38N2O3PS.HI/c49-44-41(47-31-34-19-7-1-8-20-34)45-48(44)42(46(50)51-43(35-21-9-2-10-22-35)36-23-11-3-12-24-36)37(33-53-45)32-52(38-25-13-4-14-26-38,39-27-15-5-16-28-39)40-29-17-6-18-30-40;/h1-31,41,43,45H,32-33H2;1H/q+1;/p-1/t41?,45-;/m1./s1
